US04137313
A solution of 15.8 gm (0.1 mols) of potassium permanganate in 300 ml of water was added dropwise over a period of 2.5 hours to a solution of 37.6 gm (0.125 mols) of ethyl 3-aminosulfinyl-5-chloro-1-methyl-indole-2-carboxylate in 2500 ml of acetone at 20° C. After stirring overnight at room temperature, the precipitate which had formed was filtered off and washed with warm water and acetone. The filtrate then was evaporated in vacuo at 25°-30° C. to a volume of about 350 ml. The crystallized product, ethyl 5-chloro-1-methyl-3-sulfamoyl-indole-2-carboxylate, was filtered off, washed with water and dried. Yield: 30.5 gm (77% of theory); M.p.: 207°-208° C. After acidification of the filtrate to pH 3, another product, 7-chloro-4-methyl-2H-isothiazolo[4,5-b]indole-3-(4H)-one-1,1-dioxide, was obtained, which was filtered off, washed with water and dried. Yield: 3.9 gm (12% of theory); M.p.: 288° C. (decomposition).

reactant | potassium permanganate | 0.1 mols, 15.8 gm | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | ethyl 3-aminosulfinyl-5-chloro-1-methyl-indole-2-carboxylate | 0.125 mols, 37.6 gm | NS(=O)C1=C(N(C2=CC=C(C=C12)Cl)C)C(=O)OCC | C12H13ClN2O3S
solvent | water | 300 ml | O | H2O
solvent | acetone | 2500 ml | CC(=O)C | C3H6O
product | 7-chloro-4-methyl-2H-isothiazolo[4,5-b]indole-3-(4H)-one-1,1-dioxide | ClC1=CC=2C3=C(N(C2C=C1)C)C(NS3(=O)=O)=O | C10H7ClN2O3S
